US04124227
15.5 grams (approximately 0.1 mole) of 4-chloroacetophenone were dissolved in 50 cc of ethyl alcohol in a 250 cc beaker. Thereafter, a solution consisting of 15 grams (0.214 mole) of hydroxyl amine hydrochloride dissolved in 30 cc of water were added to the beaker. Then, another solution consisting of 10 grams (0.25 mole) of sodium hydroxide dissolved in 30 cc of water were added to the beaker and the resultant solution was heated for 10 minutes on a hot plate. The reaction mixture was cooled to room temperature and poured into another beaker containing about 250 cc of cold water. The resultant mixture was acidified to a pH of 3 to 5 with strong hydrochloric acid to dissolve any unreacted hydroxyl amine. The white solid product was removed by filtration and after washing and drying, 15.6 grams of crude 4-chloroacetophenone oxime product were obtained.

reactant | 4-chloroacetophenone | approximately 0.1 mole, 15.5 grams | CC(=O)C1=CC=C(C=C1)Cl | C8H7ClO
reactant | hydroxyl amine hydrochloride | 0.214 mole, 15 grams | Cl.ON
reactant | sodium hydroxide | 0.25 mole, 10 grams | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | hydroxyl amine | ON | H3NO
solvent | ethyl alcohol | 50 cc | C(C)O | C2H6O
solvent | water | 30 cc | O | H2O
solvent | water | 30 cc | O | H2O
solvent | water | about 250 cc | O | H2O
product | 4-chloroacetophenone oxime | 15.6 grams | C/C(=N/O)/C1=CC=C(C=C1)Cl | C8H8ClNO
